US09120749B2
2-Chloro-4-[4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}-3-(methylsulfonyl)quinolin-6-yl]phenol
Following general procedure D, 1-{1-[6-bromo-3-(methylsulfonyl)quinolin-4-yl]piperidin-4-yl}-N,N-dimethylethanamine (35 mg, 0.079 mmol) was reacted with 3-chloro-4-hydroxyphenylboronic acid (26 mg, 0.150 mmol) to afford the desired product (9.4 mg, 24%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 9.23 (s, 1H), 8.39 (d, J=1.5 Hz, 1H), 8.24-8.13 (m, 2H), 7.74 (d, J=2.2 Hz, 1H), 7.58 (dd, J=8.4, 2.3 Hz, 1H), 7.09 (d, J=8.4 Hz, 1H), 3.81-3.70 (m, 2H), 3.55 (s, 2H), 3.45 (s, 3H), 3.28-3.22 (m, 1H), 2.84 (s, 6H), 2.14 (d, J=7.9 Hz, 1H), 1.95 (d, J=11.0 Hz, 2H), 1.87-1.68 (m, 2H), 1.38 (d, J=6.7 Hz, 3H); ESI MS m/z 488 [C25H30ClN3O3S+H]+; HPLC>99% (AUC), tR=10.84 min.

reactant | 1-{1-[6-bromo-3-(methylsulfonyl)quinolin-4-yl]piperidin-4-yl}-N,N-dimethylethanamine | 0.079 mmol, 35 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)N1CCC(CC1)C(C)N(C)C | C19H26BrN3O2S
reactant | 3-chloro-4-hydroxyphenylboronic acid | 0.150 mmol, 26 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | 2-Chloro-4-[4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}-3-(methylsulfonyl)quinolin-6-yl]phenol | 9.4 mg, 24% | ClC1=C(C=CC(=C1)C=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)N1CCC(CC1)C(C)N(C)C)O | C25H30ClN3O3S
